US06355631B1
N-(1-Benzhydrylazetidin-3-yl)-N-(3,5-difluorophenyl)methylsulfonamide may be obtained by carrying out the procedure as in Example 13 (method 2) in the following manner: 0.86 g of N-(3,5-difluorophenyl)methylsulfonamide, 3.28 g of triphenylphosphine and then 2 ml of diethyl azodicarboxylate are added successively to a solution of 2 g of 1-benzhydrylazetidin-3-ol in 100 cm3 of tetrahydrofuran. An increase in the temperature, which passes from 22° C. to 29° C., as well as the formation of a precipitate immediately following the addition of the diethyl azodicarboxylate are observed. After 20 h at 22° C., the precipitate is removed by filtration and the filtrate is concentrated to dryness at 40° C. under 2.7 kPa. The residue is triturated with 5 cm3 of methanol for 20 minutes at 21° C., providing 1.07 g of N-(1-benzhydrylazetidin-3-yl)-N-(3,5-difluorophenyl)methylsulfonamide in the form of a white amorphous solid.

reactant | N-(3,5-difluorophenyl)methylsulfonamide | 0.86 g | FC=1C=C(C=C(C1)F)CNS(=O)=O | C7H7F2NO2S
reactant | triphenylphosphine | 3.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-benzhydrylazetidin-3-ol | 2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
product | N-(1-benzhydrylazetidin-3-yl)-N-(3,5-difluorophenyl)methylsulfonamide | 1.07 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N(S(=O)=O)CC1=CC(=CC(=C1)F)F | C23H22F2N2O2S
